US06180844B2
4-Methylbenzoyl chloride was added to a DMF solution of a mixture of 4-amino-3-methylphenol and triethylamine, and stirred at room temperature for 30 minutes. The relative amount of each compound used, and the purification of the product. is described in Production Example 4. Thus was obtained the intended product, 4-hydroxy-2-methylphenyl-4-methylbenzamide (yield: 12%).

reactant | 4-Methylbenzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4-amino-3-methylphenol | NC1=C(C=C(C=C1)O)C | C7H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-hydroxy-2-methylphenyl-4-methylbenzamide | yield: 12% | OC1=CC(=C(C=C1)C1=C(C(=O)N)C=CC(=C1)C)C | C15H15NO2
